US08030322B2
5-bromo-1′-(3-{[3-(4-methyl-1,3-oxazol-5-yl)-1H-1,2,4-triazol-5-yl]thio}propyl)-2,3-dihydrospiro[indene-1,3′-pyrrolidine]hydrochloride (E1)
To a solution of 5-bromo-2,3-dihydrospiro[indene-1,3′-pyrrolidine] (Prep4, 0.04 g, 0.159 mmol) in dry DMF (1 ml), 3-[(3-chloropropyl)thio]-5-(4-methyl-1,3-oxazol-5-yl)-1H-1,2,4-triazole (reference procedure for preparation described in WO05/080382, 0.058 g, 0.213 mmol) was added. Then, K2CO3 (0.029 g) and NaI (0.028 g) were added and the mixture was heated at 80° C. for 24 hours. Water was then added and the solution was extracted with ethyl acetate. The organic phase was washed with brine, dried over Na2SO4 and concentrated in vacuo. The crude product was purified by a silica SPE cartridge eluting with dichloromethane/methanol from 100/0 to 98/to obtain 0.036 g of the title compound as free base. To a solution of this material in dichloromethane (1 mL) was added 0.073 mL of HCl (1M in Et2O), the solvent was evaporated in vacuo and the material thus obtained triturated with Et2O to give 32 mg of the title compound as a white slightly hygroscopic solid.

reactant | 5-bromo-2,3-dihydrospiro[indene-1,3′-pyrrolidine] | 0.159 mmol, 0.04 g | BrC=1C=C2CCC3(CNCC3)C2=CC1 | C12H14BrN
reactant | K2CO3 | 0.029 g | C(=O)([O-])[O-].[K+].[K+]
reactant | NaI | 0.028 g | [Na+].[I-]
reactant | Water | O | H2O
reactant | 3-[(3-chloropropyl)thio]-5-(4-methyl-1,3-oxazol-5-yl)-1H-1,2,4-triazole | ClCCCSC1=NNC(=N1)C1=C(N=CO1)C | C9H11ClN4OS
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | 5-bromo-1′-(3-{[3-(4-methyl-1,3-oxazol-5-yl)-1H-1,2,4-triazol-5-yl]thio}propyl)-2,3-dihydrospiro[indene-1,3′-pyrrolidine]hydrochloride | 0.036 g | Cl.BrC=1C=C2CCC3(CN(CC3)CCCSC3=NC(=NN3)C3=C(N=CO3)C)C2=CC1 | InChI=1S/C21H24BrN5OS.ClH/c1-14-18(28-13-23-14)19-24-20(26-25-19)29-10-2-8-27-9-7-21(12-27)6-5-15-11-16(22)3-4-17(15)21;/h3-4,11,13H,2,5-10,12H2,1H3,(H,24,25,26);1H
